US04332745
14.8 g (0.12 mol) of diazobicyclononane were added dropwise to a solution of 24.8 g (0.1 mol) of 3-bromo-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester in 100 ml of alcohol at 20° C. The mixture was then warmed to 50°-60° C. for 3 hours and cooled to 20° C., and 200 ml of water were added to the reaction mixture. The mixture was extracted twice with 100 ml of methylene chloride each time. The combined methylene chloride extracts were washed twice with 50 ml of 5% strength hydrochloric acid each time and twice with 50 ml of water each time, dried over sodium sulphate and concentrated. The residue was fractionated. 12.5 g (75% of theory) of 2-cyano-3,3-dimethyl-cyclopropane-1-carboxylic acid ethyl ester were obtained in the form of a colorless oil of boiling point 62°-64° C./1 mm Hg.

reactant | diazobicyclononane | 0.12 mol, 14.8 g | [N+](=[N-])=C1C(CCCCCCC1)C1CCCCCCCC1 | C18H32N2
reactant | 3-bromo-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester | 0.1 mol, 24.8 g | C(C)OC(=O)CC(C(C#N)Br)(C)C | C9H14BrNO2
solvent | water | 200 ml | O | H2O
product | 2-cyano-3,3-dimethyl-cyclopropane-1-carboxylic acid ethyl ester | 12.5 g, 75% | C(C)OC(=O)C1C(C1(C)C)C#N | C9H13NO2
